US04472316
3.44 g of 2-acetylthio-3-(4-phenoxybenzoyl)propionic acid were dissolved in 50 ml of dioxane, then 5 ml of distilled water and 2 ml of concentrated sulfuric acid were added, and the mixture was refluxed for 3 hours. The dioxane was removed by evaporation under reduced pressure. Diethyl ether was added to the residue, which was extracted with a saturated aqueous solution of sodium hydrogencarbonate. The extract was washed with diethyl ether, made slightly acidic by addition of dilute hydrochloric acid, and extracted with diethyl ether. The diethyl ether layer was washed with water and dried over magnesium sulfate. The diethyl ether was distilled off and the residue was purified by first by silica gel column chromatography, eluted with a mixture of hexane and dichloromethane, and then by recrystallization from a mixture of hexane and acetone to give 1.16 g of 2-mercapto-3-(4-phenoxybenzoyl)propionic acid.

reactant | 2-acetylthio-3-(4-phenoxybenzoyl)propionic acid | 3.44 g | C(C)(=O)SC(C(=O)O)CC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C18H16O5S
reactant | water | 5 ml | O | H2O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-mercapto-3-(4-phenoxybenzoyl)propionic acid | 1.16 g | SC(C(=O)O)CC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C16H14O4S
